data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:13]=[S:25](=[O:14])([N:24]([S:22][C:18]([F:19])([F:20])[F:21])[S:26](=[O:15])(=[O:16])[c:47]1[cH:30][cH:38][cH:34][cH:39][cH:31]1)[c:46]1[cH:28][cH:36][cH:33][cH:37][cH:29]1.[c:1]1([P:23]([c:2]2[cH:9][cH:42][cH:5][cH:43][cH:10]2)([c:3]2[cH:11][cH:44][cH:6][cH:45][cH:12]2)=[CH:48][C:35]([O:27][CH2:17][CH3:49])=[O:32])[cH:7][cH:40][cH:4][cH:41][cH:8]1>>[O:13]=[S:25](=[O:14])([N-:24][S:26](=[O:15])(=[O:16])[c:47]1[cH:30][cH:38][cH:34][cH:39][cH:31]1)[c:46]1[cH:28][cH:36][cH:33][cH:37][cH:29]1.[c:1]1([P+:23]([c:2]2[cH:9][cH:42][cH:5][cH:43][cH:10]2)([c:3]2[cH:11][cH:44][cH:6][cH:45][cH:12]2)[CH:48]([S:22][C:18]([F:19])([F:20])[F:21])[C:35]([O:27][CH2:17][CH3:49])=[O:32])[cH:7][cH:40][cH:4][cH:41][cH:8]1", "epd": [["Pi-/Sigma+", [48, 23], [48, 22]], ["Sigma-/LP+", [22, 24], [24]]]}
{"reaction_name": "NHC redox esterification", "rsmi": "[CH3:2][C:5]([H:6])=[O:7].[O:1]([H:3])[CH3:8].[c:10]1([N:4]=[N:9][c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[c:10]1([N:4]([H:3])[N:9]([H:6])[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[cH:11][cH:12][cH:13][cH:14][cH:15]1.[O:1]([C:5]([CH3:2])=[O:7])[CH3:8]", "epd": [["Sigma-/Sigma+", [1, 3], [1, 5]], ["Pi-/Sigma+", [4, 9], [3, 4]], ["Sigma-/Sigma+", [5, 6], [6, 9]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[C:3]([F:17])([F:18])([F:19])[c:29]1[cH:9][cH:13][c:7]([CH+:5][c:8]2[cH:14][cH:10][c:30]([C:4]([F:20])([F:21])[F:22])[cH:11][cH:15]2)[cH:16][cH:12]1.[CH3:1][C:6](=[C:2]=[N-:23])[c:24]1[cH:25][cH:27][cH:31][cH:28][cH:26]1>>[CH3:1][C:6]([C:2]#[N:23])([CH:5]([c:7]1[cH:13][cH:9][c:29]([C:3]([F:17])([F:18])[F:19])[cH:12][cH:16]1)[c:8]1[cH:14][cH:10][c:30]([C:4]([F:20])([F:21])[F:22])[cH:11][cH:15]1)[c:24]1[cH:25][cH:27][cH:31][cH:28][cH:26]1", "epd": [["LP-/Pi+", [23], [2, 23]], ["Pi-/Sigma+", [6, 2], [6, 5]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:22][CH3:21])[c:24]1[cH:11][cH:9][cH:3][cH:10][cH:12]1.[cH:2]1[c:18]([B:8]2[O:5][C:19]([CH3:14])([CH3:15])[C:20]([CH3:16])([CH3:17])[O:6]2)[o:7][c:13]([CH3:4])[cH:23]1>>[CH:1]([c:18]1[cH:2][cH:23][c:13]([CH3:4])[o:7]1)([O:22][CH3:21])[c:24]1[cH:11][cH:9][cH:3][cH:10][cH:12]1.[O+:5]1=[B:8][O:6][C:20]([CH3:16])([CH3:17])[C:19]1([CH3:14])[CH3:15]", "epd": [["LP-/Pi+", [5], [8, 5]], ["Sigma-/Sigma+", [18, 8], [18, 1]], ["Pi-/LP+", [1, 22], [22]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][C:3]([CH3:2])=[N+:9]([O-:16])[O-:17].[S:4]([c:7]1[cH:19][cH:12][cH:10][cH:15][cH:22]1)([C:18]([S:5]([c:8]1[cH:20][cH:13][cH:11][cH:14][cH:21]1)(=[O:23])=[O:24])=[CH2:6])(=[O:25])=[O:26]>>[CH3:1][C:3]([CH3:2])([CH2:6][C-:18]([S:4]([c:7]1[cH:19][cH:12][cH:10][cH:15][cH:22]1)(=[O:25])=[O:26])[S:5]([c:8]1[cH:20][cH:13][cH:11][cH:14][cH:21]1)(=[O:23])=[O:24])[N+:9](=[O:16])[O-:17]", "epd": [["LP-/Pi+", [16], [9, 16]], ["Pi-/Sigma+", [3, 9], [3, 6]], ["Pi-/LP+", [6, 18], [18]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][C:5](=[C:2]=[N-:7])[c:8]1[cH:17][cH:19][cH:26][cH:20][cH:18]1.[S:3]([c:9]1[cH:22][cH:13][cH:11][cH:16][cH:25]1)([C:21]([S:4]([c:10]1[cH:23][cH:14][cH:12][cH:15][cH:24]1)(=[O:27])=[O:28])=[CH2:6])(=[O:29])=[O:30]>>[CH3:1][C:5]([C:2]#[N:7])([CH2:6][C-:21]([S:3]([c:9]1[cH:22][cH:13][cH:11][cH:16][cH:25]1)(=[O:29])=[O:30])[S:4]([c:10]1[cH:23][cH:14][cH:12][cH:15][cH:24]1)(=[O:27])=[O:28])[c:8]1[cH:17][cH:19][cH:26][cH:20][cH:18]1", "epd": [["LP-/Pi+", [7], [2, 7]], ["Pi-/Sigma+", [5, 2], [5, 6]], ["Pi-/LP+", [6, 21], [21]]]}
{"reaction_name": "Chiral Lewis-acid carbonyl addition", "rsmi": "[CH3:1][Zn:6][CH3:2].[O:3]=[CH:5][c:4]1[cH:10][cH:8][cH:7][cH:9][cH:11]1>>[CH3:1][CH:5]([O-:3])[c:4]1[cH:10][cH:8][cH:7][cH:9][cH:11]1.[CH3:2][Zn+:6]", "epd": [["Sigma-/Sigma+", [1, 6], [1, 5]], ["Pi-/LP+", [3, 5], [3]]]}
{"reaction_name": "Frustrated-Lewis-pair adduct formation", "rsmi": "[CH3:1][P:7]([CH3:2])[CH3:3].[F:4][B:8]([F:5])[F:6]>>[CH3:1][P+:7]([CH3:2])([CH3:3])[B-:8]([F:4])([F:5])[F:6]", "epd": [["LP-/Sigma+", [7], [7, 8]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:7](=[O+:24][CH3:23])[c:25]1[cH:19][cH:17][cH:14][cH:18][cH:20]1.[Li+:13].[c:1]1([CH3:22])[o:15][c:5]([B-:16]23[O:2][CH2:10][C:8]([CH3:6])([CH2:11][O:3]2)[CH2:12][O:4]3)[cH:9][cH:21]1>>[Li+:13].[O:2]1[CH2:10][C:8]2([CH3:6])[CH2:11][O:3][B:16]1[O:4][CH2:12]2.[c:1]1([CH3:22])[o:15][c:5]([CH:7]([O:24][CH3:23])[c:25]2[cH:19][cH:17][cH:14][cH:18][cH:20]2)[cH:9][cH:21]1", "epd": [["Sigma-/Sigma+", [5, 16], [5, 7]], ["Pi-/LP+", [7, 24], [24]]]}
